US20010049385A1
Sodium borohydride (2.54 g, 67.1 mmol) was added to a solution of 2-chloro-3-(trifluoromethyl)benzaldehyde (purchased at Interchim, cat. # 21117, 10.0 g, 47.9 mmol) in a mixture of DCM (40 ml) and 2-propanol (20 ml), while the mixture was cooled with a water bath. The reaction mixture was stirred for 16 hours at room temperature. At 0° C., a 10% aqueous solution of sodium hydrogensulphate (20 ml) was added dropwise. The reaction mixture was diluted with DCM (100 ml) and water (100 ml). The phases were separated. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (100 ml) and dried over magnesium sulphate. The solvent was removed in vacuo to give 9.37 g of crude (2-chloro-3-(trifluoromethyl)phenyl)methanol, which was used for the next step without further purification.

reactant | Sodium borohydride | 67.1 mmol, 2.54 g | [BH4-].[Na+]
reactant | 2-chloro-3-(trifluoromethyl)benzaldehyde | 47.9 mmol, 10.0 g | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | sodium hydrogensulphate | 20 ml | S(=O)(=O)(O)[O-].[Na+]
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | (2-chloro-3-(trifluoromethyl)phenyl)methanol | 9.37 g | ClC1=C(C=CC=C1C(F)(F)F)CO | C8H6ClF3O
